US07737136B2
100 μL of saturated aq. sodium bicarbonate was added to trans-7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepine-1-amine (9.5 mg, 0.03 mmol) and chloromethyl chloroformate (64.2 μL, 0.42 mmol) in 250 μL of CH2Cl2. The resulting mixture was stirred at room temperature for 18 h. Subsequently, ethyl acetate was added and the organic layer was washed with water, dried (Na2SO4) and evaporated to give trans-(7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)carbamic acid chloromethyl ester (9.9 mg, 88%). Data: (m/z)=393 (M+H)+.

reactant | sodium bicarbonate | 100 μL | C([O-])(O)=O.[Na+]
reactant | trans-7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepine-1-amine | 0.03 mmol, 9.5 mg | ClC1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4N)C=CC=C3)C=C1 | C17H17ClN2O
reactant | chloromethyl chloroformate | 0.42 mmol, 64.2 μL | ClC(=O)OCCl | C2H2Cl2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 250 μL | C(Cl)Cl | CH2Cl2
product | trans-(7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)carbamic acid chloromethyl ester | 9.9 mg, 88% | ClCOC(N[C@@H]1CCCN2C3=C(OC4=C([C@@H]21)C=CC=C4)C=CC(=C3)Cl)=O | C19H18Cl2N2O3
